US06949542B2
3-(2′-Methyl-[2,4′]bipyridinyl-4-yl)-3-oxo-propionic acid tert-butyl ester
The title compound was prepared from 2′-methyl-[2,4′]bipyridinyl-4-carboxylic acid methyl ester [prepared by the following procedure: A cooled solution of 4-bromo-2-methyl-pyridine (2.75 g) in Et2O (26 ml) was added at −78° C. over to a solution of 1.6 M butyl lithium/hexane (12 ml) in Et2O (50 ml). The solution was stirred for 20 min at −78° C. Triisopropylborate (4.8 ml, 20.8 mmol) was added and the mixture was allowed to warm up to RT over 1 hour and subsequently stirred for 18 h. H2O (13 ml) was added and the layers were separated. The organic layer was extracted with 0.5N NaOH (25 ml) and the combined aqueous layers were acidified to pH 6 with 2N HCl and then extracted with AcOEt (200 ml). The organic extract was dried and evaporated in vacuum and the residue was triturated with Et2O to give pyridine-2-methyl-4-boronic acid (0.36 g). A mixture of this material (0.36 g, 2.6 mmol), 2-bromo-isonicotinic acid (0.53 g, 2.6 mmol) and K2CO3 (0.29 g, 2.1 mmol) in CH3CN (9 ml)/H2O (4.5 ml) was degassed and Pd(PPh3)4 (0.12 g, 0.1 mmol) was added. The mixture was stirred for 70 h at 80° C. in an atmosphere of nitrogen and then concentrated in vacuum to a volume of ca. 5 ml. The pH was set to 6 by addition of 3N HCl and the solution was then evaporated to dryness in vacuum. The residue was stirred in 1N HCl-MeOH (30 ml) for 20 h at 50° C. The crude product was purified by chromatography (silica gel, AcOEt/cyclohexane 1:1) to give the methyl ester as light yellow oil (0.22 g).] (0.16 g, 0.71 mmol) by treatment with lithium tert-butyl acetate according to general procedure K (method b). Obtained as a white solid (0.38 g).

reactant | 2′-methyl-[2,4′]bipyridinyl-4-carboxylic acid methyl ester | COC(=O)C1=CC(=NC=C1)C1=CC(=NC=C1)C | C13H12N2O2
reactant | 4-bromo-2-methyl-pyridine | 2.75 g | BrC1=CC(=NC=C1)C | C6H6BrN
reactant | butyl lithium hexane | 1.6 M, 12 ml | C(CCC)[Li].CCCCCC
reactant | Triisopropylborate | 20.8 mmol, 4.8 ml | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | Et2O | 26 ml | CCOCC | C4H10O
reactant | Et2O | 50 ml | CCOCC | C4H10O
solvent | H2O | 13 ml | O | H2O
product | 3-(2′-Methyl-[2,4′]bipyridinyl-4-yl)-3-oxo-propionic acid tert-butyl ester | C(C)(C)(C)OC(CC(=O)C1=CC(=NC=C1)C1=CC(=NC=C1)C)=O | C18H20N2O3
